US07572820B2
A. 5-(Methyloxy)-2-(trifluoromethyl)-1H-benzimidazole
Synthesized as described Example 195C from [2-amino-4-(methyloxy)phenyl]amine dihydrochloride and TFA: MS (ESI) m/z 217 (M+1).

reactant | [2-amino-4-(methyloxy)phenyl]amine dihydrochloride | Cl.Cl.NC1=C(C=CC(=C1)OC)N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(Methyloxy)-2-(trifluoromethyl)-1H-benzimidazole | COC1=CC2=C(NC(=N2)C(F)(F)F)C=C1 | C9H7F3N2O
